US04375475
Step B. Preparation of 4-Phenyl-1-butanal
To a stirred suspension of 4-phenylbutyronitrile (21.7 g, 0.12 mole) in ether (400 ml) at 78° C. is added 85 ml. of 25.3% diisobutylaluminum hydride in toluene over a period of 1 hour. After an additional 1 hour, the dry ice-acetone bath is removed and the reaction mixture is stirred at ambient temperature for 3 hours. The reaction mixture is added slowly to 5% aqueous sulfuric acid and then is extracted with several portions of ether. The ether extracts are combined, washed with water and saturated aqueous sodium chloride solution and dried over magnesium sulfate. After removal of the ether, the residual yellow oil is distilled in vacuo to give an oil.

reactant | 4-phenylbutyronitrile | 0.12 mole, 21.7 g | C1(=CC=CC=C1)CCCC#N | C10H11N
reactant | diisobutylaluminum hydride | [H-].C(C(C)C)[Al+]CC(C)C
reactant | ether | 400 ml | CCOCC | C4H10O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 4-Phenyl-1-butanal | C1(=CC=CC=C1)CCCC=O | C10H12O
